US07294644B2
5-(3,5-Bis-trifluoromethyl-phenyl)-1-(3-fluoro-benzyl)-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 1-(3,5-bis-trifluoromethyl-phenyl)-2-bromo-ethanone as compound of formula S, 3-fluorobenzylamine as R3—(CH2)m—NH2 and 1-piperidinamine as R1R2NH, MS (ISP) 528.2 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 1-(3,5-bis-trifluoromethyl-phenyl)-2-bromo-ethanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CBr)=O)(F)F | C10H5BrF6O
reactant | 3-fluorobenzylamine | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | 5-(3,5-Bis-trifluoromethyl-phenyl)-1-(3-fluoro-benzyl)-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC(=CC=C1)F)C | C26H24F7N3O
